US06599917B1
e) 3-[4-Benzyl-2-(3,4-methylenedioxyphenyl)-5-thiazolyl]ethynyl-3-quinuclidinol
5 ml of N,N-dimethylformamide was added to a mixture of 377 mg of 4-benzyl-5-bromo-2-(3,4-methylenedioxyphenyl)thiazole, 178 mg of 3-ethynyl-3-quinuclidinol, 68 mg of tetrakis (triphenylphosphine)palladium(0), 18 mg of cuprous iodide and 0.5 ml of triethylamine, followed by heating under stirring at 100° C. in an oil bath for 15 minutes in a nitrogen atmosphere. After cooling as it was, ethyl acetate and aqueous ammonia were added thereto, and the mixture was extracted with ethyl acetate. The organic phase was further washed with brine, dried over anhydrous sodium sulfate and the solvent was removed. The resulting crystals were collected by filtration, to give 253 mg of the target compound.

reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 4-benzyl-5-bromo-2-(3,4-methylenedioxyphenyl)thiazole | 377 mg | C(C1=CC=CC=C1)C=1N=C(SC1Br)C1=CC2=C(C=C1)OCO2 | C17H12BrNO2S
reactant | 3-ethynyl-3-quinuclidinol | 178 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | ammonia | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 3-[4-Benzyl-2-(3,4-methylenedioxyphenyl)-5-thiazolyl]ethynyl-3-quinuclidinol | 253 mg | C(C1=CC=CC=C1)C=1N=C(SC1C#CC1(CN2CCC1CC2)O)C2=CC1=C(C=C2)OCO1 | C26H24N2O3S
